US08039620B2
A 250 ml 4 neck round bottom flask equipped with mechanical stirrer, Thermo pocket was charged with DM water (15 ml) and 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene Tosylate salt (5 g, having a total purity of 99.71%). The above suspension was stirred for 30 min at 25-30° C. To this was added 8% aqueous sodium bicarbonate solution (150 ml) to adjust the pH to 8.0-9.0 at 25-30° C. MDC (30 ml) was added to this solution. The resulting mixture was stirred for 30 minutes at 20-25° C. The organic layer was separated, and the aqueous layer was extracted with MDC (4×30 ml). The combined organic layer was washed with DM water (30 ml). The organic layer was treated with activated Carbon (1.0 g), and stirred for 30 minutes at 25-30° C. The resulting solution was filtered through celite. Concentration afforded a solid product i.e. 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene. (Yield—2.5 g (95.06% (relative to VRN-Tosylate)), HPLC purity—99.65%).

reactant | 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene Tosylate salt | S(=O)(=O)(O)C1=CC=C(C)C=C1.C12C=3C=C4N=CC=NC4=CC3C(CNC1)C2
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | water | 15 ml | O | H2O
product | 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene | C12C=3C=C4N=CC=NC4=CC3C(CNC1)C2 | C13H13N3
